US05990126
N-(3,5-Dichlorophenyl)-2-hydroxyimino-acetamide
A mixture of 3,5-dichloroaniline (10.0 g, 61.7 mmol) in H2O(50 mL), concentrated HCl(12 mL) and 1,4-dioxane (20 mL) was heated to be clear solution, and then added to a mixture of chloral hydrated (10.5 g, 66.9 mmol) and Na2SO4 (66.0 g) in H2O (224 mL) which has been warmed to 50° C. To the above mixture was added hydroxylamine hydrochloride (13.0 g, 180 mmol) in H2O (60 mL), and the mixture was refluxed for 50 mins. After cooling down to room temperature, the insoluble solids was filtered, was washed with excess H2O, and dried in vacuo to provide 12.8 g (89%) of the title compound as a pale yellow solid:

reactant | 3,5-dichloroaniline | 61.7 mmol, 10.0 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | chloral | 66.9 mmol, 10.5 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | Na2SO4 | 66.0 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 180 mmol, 13.0 g | Cl.NO
solvent | H2O | 50 mL | O | H2O
solvent | HCl | 12 mL | Cl | ClH
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 224 mL | O | H2O
solvent | H2O | 60 mL | O | H2O
product | N-(3,5-Dichlorophenyl)-2-hydroxyimino-acetamide | 12.8 g, 89% | ClC=1C=C(C=C(C1)Cl)NC(C=NO)=O | C8H6Cl2N2O2
